US07288541B2
To a solution of 0.130 g (0.22 mmol) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate in 2.0 mL of dichloromethane was added 0.020 g (0.24 mmol) of sodium bicarbonate and 0.11 g (0.26 mmol) of Dess-Martin periodinane. The reaction mixture was stirred for 15 min and then purified via silica gel chromatography eluting with ethyl acetate:hexane (7:3) to afford 0.078 g (59%) of (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl(1S)-1-methyl-2-oxo-3-[(2-pyridinylsulfonyl)amino]propylcarbamate as a colorless oil. 1H-NMR (300 MHz, CDCl3) δ 8.58 (m, 1H), 7.98–7.89 (m, 4H), 7.63 (m, 2H), 7.46 (m, 2H), 6.65 (s, 1H), 5.56 (m, 1H), 1.05 (s, 9H), 5.24 (d, J=7 Hz, 1H), 4.98 (m, 1H), 4.44 (m, 1H), 4.34–4.12 (m, 4H), 1.12 (d, J=7 Hz, 3H); LC-MS m/z 582 (M+H).

reactant | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 0.22 mmol, 0.130 g | O[C@H]([C@H](C)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)CNS(=O)(=O)C1=NC=CC=C1 | C26H32F3N5O5S
reactant | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | O[C@@H]([C@H](C)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O)CNS(=O)(=O)C1=NC=CC=C1 | C26H32F3N5O5S
reactant | sodium bicarbonate | 0.24 mmol, 0.020 g | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 0.26 mmol, 0.11 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (1S)-2,2-dimethyl-1-({3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)propyl(1S)-1-methyl-2-oxo-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 0.078 g, 59% | C[C@@H](C(CNS(=O)(=O)C1=NC=CC=C1)=O)NC(O[C@@H](C(C)(C)C)CN1N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H30F3N5O5S
